US06872731B2
A stirred suspension of 4-chloropyridin-2-ylamine (6.20 g, 48.2 mmol), chloroacetaldehyde (11.4 g of a 50 wt % solution in water, 73 mmol) and sodium hydrogencarbonate (8.09 g, 96.4 mmol) in ethanol (70 ml) was heated under reflux for 6 h. The solvent was evaporated and the residue partitioned between ethyl acetate and water. The organic layer was washed with brine, dried over sodium sulphate and concentrated in vacuo to give an orange oil. This oil was purified by silica gel chromatography eluting with 50% ethyl acetate in isohexane to afford 7-chloroimidazo[1,2-α]pyridine (5.60 g, 75%) as a white crystalline solid. 1H NMR (400 MHz, CDCl3) δH 6.78 (1H, d, J 7), 7.56 (1H, s), 7.63 (2H, s), 8.05 (1H, d, J 7).

reactant | 4-chloropyridin-2-ylamine | 48.2 mmol, 6.20 g | ClC1=CC(=NC=C1)N | C5H5ClN2
reactant | chloroacetaldehyde | ClCC=O | C2H3ClO
reactant | sodium hydrogencarbonate | 96.4 mmol, 8.09 g | C(O)([O-])=O.[Na+]
solvent | water | O | H2O
solvent | ethanol | 70 ml | C(C)O | C2H6O
product | 7-chloroimidazo[1,2-α]pyridine | 5.60 g, 75% | ClC1=CC=2N(C=C1)C=CN2 | C7H5ClN2
